US06030969
2-Lithiothiophene (1.0 M in THF, 33.0 mL, 33.0 mmol, Aldrich Chemical Co.) was added dropwise to N-methyl-N-methoxy-(3,4-dimethoxyphenyl)acetamide (5.26 g, 22.0 mmol) in anhydrous THF at -78° C. The reaction was allowed to proceed 90 min., then diluted with 100 mL Et2O and poured into 1 N aq. HCl. The aqueous phase was extracted with Et2O and the combined organic fraction was washed with brine, dried (Na2SO4), and concentrated in vacuo. Flash chromatography (25% EtOAc/hexanes) yielded 2.91 g (50%) 2-(3,4-dimethoxyphenyl)-1-(thien-2-yl)ethanone as a brown oil. MS 263 (M+H)+, 280 (M+NH4)+.

reactant | 2-Lithiothiophene | 33.0 mmol, 1.0 M, 33.0 mL | [Li]C=1SC=CC1
reactant | N-methyl-N-methoxy-(3,4-dimethoxyphenyl)acetamide | 22.0 mmol, 5.26 g | CN(C(CC1=CC(=C(C=C1)OC)OC)=O)OC | C12H17NO4
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 2-(3,4-dimethoxyphenyl)-1-(thien-2-yl)ethanone | 2.91 g, 50% | COC=1C=C(C=CC1OC)CC(=O)C=1SC=CC1 | C14H14O3S
